US08383644B2
(3S,8S)-8-{(S)-1-Carboxy-2-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-ethylcarbamoyl}-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid isopropyl ester
(S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride (25 mg) was reacted with isopropyl chloroformate according to General Procedure G (with excess of chloroformate). The resulting compound was hydrolyzed according to General Procedure B to give the title compound (4 mg). LCMS (m/z): 841.

reactant | (S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride | 25 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | chloroformate | ClC(=O)[O-]
product | (3S,8S)-8-{(S)-1-Carboxy-2-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-ethylcarbamoyl}-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid isopropyl ester | 4 mg | C(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)C(=O)O)=O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C45H43Cl2N3O9
